
.SUBCKT TIP105 1 2 3
* Model generated on Mar 7, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 6.66588
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=9.9993 N=0.999993 XTI=2.99999
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.63364e-12 BF=201.645 NF=1.06537 VAF=68.5558
+IKF=0.190359 ISE=3.32582e-12 NE=1.43919 BR=0.992291
+NR=0.927972 VAR=102.813 IKR=0.0993102 ISC=9.99999e-14
+NC=1.99999 RB=16.4958 IRB=0.1 RBM=16.4958
+RE=0.154266 RC=1.75388 XTB=0.488452 XTI=2.99479 EG=1.05
+CJE=2.24104e-10 VJE=0.95 MJE=0.1 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=2.47942e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.63364e-12 BF=201.645 NF=1.06537 VAF=68.5558
+IKF=0.190359 ISE=3.32582e-12 NE=1.43919 BR=0.992291
+NR=0.927972 VAR=102.813 IKR=0.0993102 ISC=9.99999e-14
+NC=1.99999 RB=16.4958 IRB=0.1 RBM=16.4958
+RE=0.154266 RC=1.75388 XTB=0.488452 XTI=2.99479 EG=1.05
+CJE=2.24104e-10 VJE=0.95 MJE=0.1 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


.SUBCKT TIP106 1 2 3
* Model generated on Mar 7, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 6.66588
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=9.9993 N=0.999993 XTI=2.99999
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.63364e-12 BF=201.645 NF=1.06537 VAF=68.5558
+IKF=0.190359 ISE=3.32582e-12 NE=1.43919 BR=0.992291
+NR=0.927972 VAR=102.813 IKR=0.0993102 ISC=9.99999e-14
+NC=1.99999 RB=16.4958 IRB=0.1 RBM=16.4958
+RE=0.154266 RC=1.75388 XTB=0.488452 XTI=2.99479 EG=1.05
+CJE=2.24104e-10 VJE=0.95 MJE=0.1 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=2.47942e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.63364e-12 BF=201.645 NF=1.06537 VAF=68.5558
+IKF=0.190359 ISE=3.32582e-12 NE=1.43919 BR=0.992291
+NR=0.927972 VAR=102.813 IKR=0.0993102 ISC=9.99999e-14
+NC=1.99999 RB=16.4958 IRB=0.1 RBM=16.4958
+RE=0.154266 RC=1.75388 XTB=0.488452 XTI=2.99479 EG=1.05
+CJE=2.24104e-10 VJE=0.95 MJE=0.1 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


.SUBCKT TIP107 1 2 3
* Model generated on Jan 20, 03
* MODEL FORMAT: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 10.2983
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.0012e-12 BF=116.055 NF=1.05819 VAF=92.7382
+IKF=0.149857 ISE=1.24495e-12 NE=1.70621 BR=0.999735
+NR=0.993731 VAR=100.194 IKR=0.0999992 ISC=1e-13
+NC=2 RB=10.3948 IRB=0.200382 RBM=10.1772
+RE=0.163782 RC=1.00023 XTB=0.505844 XTI=3.00058 EG=1.13482
+CJE=1.53127e-10 VJE=0.95 MJE=0.469947 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=2.51701e-10
+VJC=0.95 MJC=0.256722 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.0012e-12 BF=116.055 NF=1.05819 VAF=92.7382
+IKF=0.149857 ISE=1.24495e-12 NE=1.70621 BR=0.999735
+NR=0.993731 VAR=100.194 IKR=0.0999992 ISC=1e-13
+NC=2 RB=10.3948 IRB=0.200382 RBM=10.1772
+RE=0.163782 RC=1.00023 XTB=0.505844 XTI=3.00058 EG=1.13482
+CJE=1.53127e-10 VJE=0.95 MJE=0.469947 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.256722 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS TIP107

.SUBCKT TIP115 1 2 3
* Model generated on Feb 7, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 1
D1 1 3 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=7.52168e-12 BF=910.194 NF=1.03294 VAF=30
+IKF=0.0436024 ISE=2.55585e-10 NE=1.70431 BR=11.6287
+NR=0.75 VAR=53.3008 IKR=0.107788 ISC=1.0025e-13
+NC=2.00098 RB=2.87325 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.44643 XTI=2.56788 EG=1.05
+CJE=1.99688e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.06519e-10
+VJC=0.95 MJC=0.271394 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=7.52168e-12 BF=910.194 NF=1.03294 VAF=30
+IKF=0.0436024 ISE=2.55585e-10 NE=1.70431 BR=11.6287
+NR=0.75 VAR=53.3008 IKR=0.107788 ISC=1.0025e-13
+NC=2.00098 RB=2.87325 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.44643 XTI=2.56788 EG=1.05
+CJE=1.99688e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.271394 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


.SUBCKT TIP116 1 2 3
* Model generated on Feb 7, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 1
D1 1 3 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=7.52168e-12 BF=910.194 NF=1.03294 VAF=30
+IKF=0.0436024 ISE=2.55585e-10 NE=1.70431 BR=11.6287
+NR=0.75 VAR=53.3008 IKR=0.107788 ISC=1.0025e-13
+NC=2.00098 RB=2.87325 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.44643 XTI=2.56788 EG=1.05
+CJE=1.99688e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.06519e-10
+VJC=0.95 MJC=0.271394 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=7.52168e-12 BF=910.194 NF=1.03294 VAF=30
+IKF=0.0436024 ISE=2.55585e-10 NE=1.70431 BR=11.6287
+NR=0.75 VAR=53.3008 IKR=0.107788 ISC=1.0025e-13
+NC=2.00098 RB=2.87325 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.44643 XTI=2.56788 EG=1.05
+CJE=1.99688e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.271394 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


.SUBCKT TIP117 1 2 3
* Model generated on Dec 19, 2003
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 1
D1 1 3 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=7.52168e-12 BF=910.194 NF=1.03294 VAF=30
+IKF=0.0436024 ISE=2.55585e-10 NE=1.70431 BR=11.6287
+NR=0.75 VAR=53.3008 IKR=0.107788 ISC=1.0025e-13
+NC=2.00098 RB=2.87325 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.44643 XTI=2.56788 EG=1.05
+CJE=1.99688e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.06519e-10
+VJC=0.95 MJC=0.271394 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=7.52168e-12 BF=910.194 NF=1.03294 VAF=30
+IKF=0.0436024 ISE=2.55585e-10 NE=1.70431 BR=11.6287
+NR=0.75 VAR=53.3008 IKR=0.107788 ISC=1.0025e-13
+NC=2.00098 RB=2.87325 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.44643 XTI=2.56788 EG=1.05
+CJE=1.99688e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.271394 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


.SUBCKT TIP125 1 2 3
* Model generated on Dec 26, 2003
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 2.88555
D1 1 3 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.2055e-13 BF=372.6 NF=0.93957 VAF=30
+IKF=0.270463 ISE=5.17589e-11 NE=1.54229 BR=0.1
+NR=1.5 VAR=133.691 IKR=0.109261 ISC=1.00299e-13
+NC=1.97768 RB=5.00165 IRB=0.200734 RBM=5.00165
+RE=0.0988666 RC=0.494333 XTB=0.574661 XTI=2.93148 EG=1.05
+CJE=2.09796e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.53285e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.2055e-13 BF=372.6 NF=0.93957 VAF=30
+IKF=0.270463 ISE=5.17589e-11 NE=1.54229 BR=0.1
+NR=1.5 VAR=133.691 IKR=0.109261 ISC=1.00299e-13
+NC=1.97768 RB=5.00165 IRB=0.200734 RBM=5.00165
+RE=0.0988666 RC=0.494333 XTB=0.574661 XTI=2.93148 EG=1.05
+CJE=2.09796e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


.SUBCKT TIP126 1 2 3
* Model generated on Feb 8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 2.88555
D1 1 3 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.2055e-13 BF=372.6 NF=0.93957 VAF=30
+IKF=0.270463 ISE=5.17589e-11 NE=1.54229 BR=0.1
+NR=1.5 VAR=133.691 IKR=0.109261 ISC=1.00299e-13
+NC=1.97768 RB=5.00165 IRB=0.200734 RBM=5.00165
+RE=0.0988666 RC=0.494333 XTB=0.574661 XTI=2.93148 EG=1.05
+CJE=2.09796e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.53285e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.2055e-13 BF=372.6 NF=0.93957 VAF=30
+IKF=0.270463 ISE=5.17589e-11 NE=1.54229 BR=0.1
+NR=1.5 VAR=133.691 IKR=0.109261 ISC=1.00299e-13
+NC=1.97768 RB=5.00165 IRB=0.200734 RBM=5.00165
+RE=0.0988666 RC=0.494333 XTB=0.574661 XTI=2.93148 EG=1.05
+CJE=2.09796e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


.SUBCKT TIP127 1 2 3
* Model generated on Dec 26, 2003
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 2.84905
D1 1 3 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=2.2383e-14 BF=390.271 NF=0.874443 VAF=38.5083
+IKF=0.202108 ISE=1.49947e-10 NE=1.64874 BR=0.1
+NR=1.32278 VAR=134.629 IKR=0.177707 ISC=1.03339e-13
+NC=1.97553 RB=4.89811 IRB=0.200734 RBM=4.89811
+RE=0.089979 RC=0.449895 XTB=0.584937 XTI=2.92881 EG=1.05
+CJE=2.09764e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.53285e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=2.2383e-14 BF=390.271 NF=0.874443 VAF=38.5083
+IKF=0.202108 ISE=1.49947e-10 NE=1.64874 BR=0.1
+NR=1.32278 VAR=134.629 IKR=0.177707 ISC=1.03339e-13
+NC=1.97553 RB=4.89811 IRB=0.200734 RBM=4.89811
+RE=0.089979 RC=0.449895 XTB=0.584937 XTI=2.92881 EG=1.05
+CJE=2.09764e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


.SUBCKT TIP145 1 2 3
* Model generated on Feb 8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 9.26065
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


.SUBCKT TIP146 1 2 3
* Model generated on Feb 8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 9.26065
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


.SUBCKT TIP147 1 2 3
* Model generated on Feb 8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 9.26065
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS

.SUBCKT BDW94C 1 2 3
Q1 1 2 4 Q1model
Q2 1 4 3 Q2model 5.2266
D1 1 3 Dmodel
R1 2 4 10.000E3
R2 4 3 600
.MODEL Dmodel D
+ IS=5.29E-12 N=1.087 RS=1.533
+ CJO=3.888136E-10 M=0.3464517 VJ=0.6514732
+ BV=110.0 IBV=0.1
.MODEL Q1model PNP
+ IS=1.02E-14 BF=4.297E3 NF=1
+ VAF=55.63 IKF=0.15858 ISE=2.255E-12
+ NE=1.533 BR=4.995 NR=1.1
+ VAR=100 IKR=19.98 ISC=2.38E-9
+ NC=2.997 RB=1.63932 NK=0.5957
+ RE=0.002 RC=0.3025 EG=1.0569
+ CJE=2.248747E-10 VJE=0.8353946 MJE=0.3402586 
+ CJC=2.256645E-10 VJC=0.6074885 MJC=0.2521917 
+ XCJC=0.4445 FC=0.5
.MODEL Q2model PNP
+ IS=1.02E-14 BF=4.297E3 NF=1
+ VAF=55.63 IKF=0.15858 ISE=2.255E-12
+ NE=1.533 BR=4.995 NR=1.1
+ VAR=100 IKR=19.98 ISC=2.38E-9
+ NC=2.997 RB=1.63932 NK=0.5957
+ RE=0.002 RC=0.3025 EG=1.0569
+ CJE=2.248747E-10 VJE=0.8353946 MJE=0.3402586 
+ CJC=2.256645E-10 VJC=0.6074885 MJC=0.2521917 
+ XCJC=0.4445 FC=0.5
.ENDS BDW94C

* Motorola 100 Volt 12 Amp Darlington Transistor  07/20/98
*
* connections:    Collector
*                 |  Base
*                 |  |  Emitter
*                 |  |  |
.SUBCKT  2N6052   1  2  3
*
Q1 1 2 4 Q1model
Q2 1 4 3 Q2model .99
D1 1 3 Dmodel
R1 2 4 5.000E3
R2 4 3 50
.MODEL Dmodel D
+ IS=5.3253E-12
+ N=3.4748
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=100.00E-12
+ BV=120
+ IBV=1.00E-6
+ TT=5.0000E-9
.MODEL Q1model PNP
+  IS=1.500E-12 BF=2.997E3 NF=1 VAF=100
+  IKF=.263 ISE=6.747E-12 NE=1.413 BR=499.5
+  NR=1 VAR=100 IKR=19.98 ISC=19.59E-12
+  NC=2.997 RB=1.0845 NK=.5779
+  RE=0 RC=0.196311 EG=1.110
+  CJE=316.6E-12 VJE=.436 MJE=.2878 TF=9.781E-9
+  XTF=1 VTF=10 ITF=10.00E-3 CJC=372.5E-12
+  VJC=1.177 MJC=.2738 XCJC=.9 FC=.5
+  TR=7.561E-9
.MODEL Q2model PNP
+  IS=1.500E-12 BF=2.997E3 NF=1 VAF=100
+  IKF=.263 ISE=6.747E-12 NE=1.413 BR=499.5
+  NR=1 VAR=100 IKR=19.98 ISC=19.59E-12
+  NC=2.997 RB=1.0845 NK=.5779
+  RE=0 RC=0.196311 EG=1.110
+  CJE=316.6E-12 VJE=.436 MJE=.2878 TF=9.781E-9
+  XTF=1 VTF=10 ITF=10.00E-3 CJC=0
+  VJC=1.177 MJC=.2738 XCJC=.9 FC=.5
+  TR=7.561E-9
.ENDS
