* 08.06.2015
* FAN7621
* PFM Controller for Half-Bridge Resonant Converters
.subckt FAN7621 HVcc CTR HO NC NC AR NC RT CS SG NC LVcc NC LO NC PG
A4 cosc SG SG SG SG N012 N004 SG COUNTER Vhigh=5 Trise=10n cycles=4
D1 SG N011 z2
V1 N011 RT 0
B2 N007 SG I=2*(I(V1)+0.15m*(2-V(vss)))*V(cosc)/5
A1 N007 SG SG SG SG SG N008 SG BUF Vhigh=5 Trise=10n Ref=3
A2 N007 SG SG SG SG N013 SG SG BUF Vhigh=5 Trise=10n Ref=1
A3 N008 N013 SG SG SG SG cosc SG SRFLOP Vhigh=5 Trise=10n
C1 N007 SG 234p ic=0
B1 SG N007 I=I(V1)+0.15m*(2-V(vss))
G1 SG N011 N016 SG 240µ
A7 N026 N022 SG SG SG N023 SG SG SRFLOP Vhigh=5 Trise=10n
A8 LVcc SG SG SG SG SG N021 SG BUF Vhigh=5 Trise=10n Ref=23
A9 N021 N019 SG SG N025 SG N022 SG OR Vhigh=5 Trise=10n
E1 N024 SG CS SG -1
A10 N024 SG SG SG SG SG N025 SG BUF Vhigh=5 Trise=10n Ref=0.58 Td=1.5u
A11 N024 SG SG SG SG SG N029 SG BUF Vhigh=5 Trise=10n Ref=0.9
A14 LVcc SG SG SG SG N032 SG SG BUF Vhigh=5 Trise=10n Ref=5
A15 N023 N030 SG SG SG N016 N010 SG OR Vhigh=5 Trise=10n
A13 N032 N029 SG SG SG N030 SG SG SRFLOP Vhigh=5 Trise=10n
A6 AR SG SG SG SG N026 SG SG SCHMITT Vhigh=5 Trise=10n Vt=0.5 Vh=0.1
S2 SG N028 N010 SG AR
C4 vss SG 1.8µ ic=0
D2 SG vss z2
G2 SG vss N016 SG 240µ
R4 AR N027 5k
R5 vss N028 10
S1 SG N027 N010 SG AR
A12 N012 SG SG SG SG SG N014 SG BUF Vhigh=5 Trise=10n Td=350n
A16 N004 SG SG SG SG SG N005 SG BUF Vhigh=5 Trise=10n Td=350n
A17 N004 SG N005 SG N010 N009 SG SG OR Vhigh=5 Trise=10n
A18 N012 SG N014 SG N010 N017 SG SG OR Vhigh=5 Trise=10n
S3 HO HVcc N002 SG HOUT
S4 CTR HO N006 SG LOUT
S5 LO LVcc N015 SG HOUT
S6 PG LO N020 SG LOUT
A19 N003 SG SG SG N009 N006 N002 SG AND Vhigh=5 Trise=10n
A20 N017 SG SG SG SG N020 N015 SG BUF Vhigh=5 Trise=10n
E2 N001 SG HVcc CTR 1
A21 N001 SG SG SG SG SG N003 SG SCHMITT Vhigh=5 Trise=10n Vt=8.95 Vh=0.25
R1 LVcc SG 250k
R2 HVcc CTR 143k
S7 SG N031 N018 SG AR
R3 LVcc N031 6.3k
A5 LVcc SG SG SG SG N019 N018 SG SCHMITT Vhigh=5 Trise=10n Vt=11.25 Vh=1.25
R6 nc 0 100meg
.model z2 D(Ron=1 Roff=1g Vfwd=0 Vrev=2)
.model AR SW(Ron=10m Roff=1g Vt=2.5 Vh=-0.5)
.model HOUT SW(Ron=1.7 Roff=250k Vt=2.5 Vh=-0.5 Vser=2 Ilimit=0.36)
.model LOUT SW(Ron=1.7 Roff=250k Vt=2.5 Vh=-0.5 Vser=1 Ilimit=0.6)
.ends winding