* D:\INGEÑERIA\Circuitos Electronicos II\resoluciones\tp2\Draft1.asc
D1 0 N003 BZX84C10L
Q1 N001 N003 N002 0 NPN
R1 N001 N003 220
R2 N001 0 3
V1 N002 0 1
.model D D
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
.backanno
.end
