* D:\INGEÑERIA\Circuitos Electronicos II\simulaciones\(labo2) ej10tp2.asc
R1 N001 N002 680
V1 0 N001 15
Q1 N002 N003 N005 0 NPN
Q2 N001 N004 N005 0 NPN
R2 N005 N006 4700
R3 N006 N007 1500
D1 N006 0 BZX84C10L
V2 N007 0 -15
R4 N003 0 10k
V3 N003 0 SINE(0 100m 1k)
V4 N004 0 SINE(0 -50m 1k)
C1 NC_01 N002 10n
.model D D
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0.01
.backanno
.end
