* D:\INGEÑERIA\Circuitos Electronicos II\simulaciones\Draft1.asc
Q1 N004 N005 N006 0 BC337-25
RE N006 N007 30
RC N001 N002 150
V2 N001 0 16
R1 N001 N005 16.6k
R2 N005 N007 10k
V3 N007 0 -16
V4 N005 0 SINE(0 100m 1k)
XU1 N007 N006 P001 tip127
R3 N003 P001 0.12
R4 P002 N003 0.12
R5 N003 0 4
XU2 N001 N002 P002 tip122
V1 N002 N004 12
.model NPN NPN
.model PNP PNP
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran .010
.lib Sborka.lib
.backanno
.end
